US04268509
A solution of methyl N-(3-methoxypropyl)dithiocarbamate (100.2 g) in ethanol (300 ml) was added dropwise at 3° C. over 30 minutes to a solution of hydrazine hydrate (28 g) in ethanol (200 ml). The mixture was stirred for 4.5 hours at 70° C. The reaction mixture was concentrated and to the residue were added water and diethyl ether. The diethyl ether extract was dried over magnesium sulfate and evaporated in vacuo to give pinkish oil of 4-(3-methoxypropyl)thiosemicarbazide (89.9 g).

reactant | methyl N-(3-methoxypropyl)dithiocarbamate | 100.2 g | COCCCNC(SC)=S | C6H13NOS2
reactant | hydrazine hydrate | 28 g | O.NN
solvent | ethanol | 300 ml | C(C)O | C2H6O
solvent | ethanol | 200 ml | C(C)O | C2H6O
product | 4-(3-methoxypropyl)thiosemicarbazide | 89.9 g | COCCCNC(NN)=S | C5H13N3OS
